US04452983
To a solution of 3.2 g (0.0299 mole) of 2-aminomethylpyridine and 12.1 g (0.114 mole) of sodium carbonate in 100 ml of benzene is added dropwise a solution of 9.8 g (0.0285 mole) of 5-benzyloxy-2-(2,2,2-trifluoroethoxy)benzoyl chloride in 30 ml benzene. The mixture is stirred for about 16 hours at room temperature. Water and diethyl ether are added. The ether layer is separated, washed with water, then with saturated aqueous sodium chloride solution. The solution is dried over magnesium sulfate, and the magnesium sulfate is removed by filtration. The filtrate is evaporated to provide a white solid, 5-benzyloxy-N-(2-pyridylmethyl)-2-(2,2,2-trifluoroethoxybenzamide. The infrared and nuclear magnetic resonance spectra of this product are consistent with the assigned structure.

reactant | 2-aminomethylpyridine | 0.0299 mole, 3.2 g | NCC1=NC=CC=C1 | C6H8N2
reactant | sodium carbonate | 0.114 mole, 12.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-benzyloxy-2-(2,2,2-trifluoroethoxy)benzoyl chloride | 0.0285 mole, 9.8 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)Cl)C1)OCC(F)(F)F | C16H12ClF3O3
reactant | Water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2,2-trifluoroethoxybenzamide | FC(COC1=C(C(=O)N)C=CC=C1)(F)F | C9H8F3NO2
